US06407086B2
0.85 ml of a methyllithium solution (1.6 N, in diethyl ether) are added to a suspension of 130 mg cuprous iodide in diethyl ether at 0° C. The resulting mixture is stirred for one hour before a solution of 130 mg cholesta-4,8-dien-3-one in 1 ml diethyl ether is added. After being stirred for 30 minutes the reaction mixture is poured into saturated ammonium chloride solution and extracted with ethyl acetate. The organic layer is separated, washed with brine, dried over anhydrous sodium sulphate and filtered. After evaporation of the solvent the residue is chromatographed with mixture of hexane and ethyl acetate to give 80 mg 5-methyl-5β-cholest-8-en-3-one as a white solid.

reactant | methyllithium | 1.6 N, 0.85 ml | C[Li]
reactant | cholesta-4,8-dien-3-one | 130 mg | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2C=3CCC4=CC(CC[C@]4(C)C3CC[C@]12C)=O | C27H42O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 1 ml | C(C)OCC | C4H10O
product | 5-methyl-5β-cholest-8-en-3-one | 80 mg | C[C@@]12CCC=3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CCC3[C@]2(CCC(C1)=O)C)C | C28H46O
